US08278290B2
d) Preparation of {6-Methoxy-2-[1-(4-methoxy-phenyl)-1H-pyrazol-4-yl]-benzofuran-3-yl}-(3,4,5-trimethoxyphenyl)-methanone (Entry 40, Table 1)
To an 8 mL screw cap glass vial was added [6-methoxy-2-(1H-pyrazol-4-yl)-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone (11 mg, 0.027 mmol), 3 Å molecular sieves, dichloromethane (0.5 mL), cupric acetate (10 mg, 0.054 mmol), 4-methoxy-phenyl boronic acid (9 mg, 0.059 mmol) and pyridine (15 μl, excess) and the capped vial was shaken at room temperature for two days with occasional removal of the cap to expose the mixture to atmospheric oxygen. After this time the reaction mixture was filtered through celite and the filtrate was concentrated and purified by silica-gel flash chromatography (eluent=hexane:ethyl acetate, 3:1) to afford the product as a yellow solid (2 mg, 15% yield). 1H-NMR (CDCl3) δ 8.56 (s, 1H), 8.17 (s, 1H), 7.60 (d, J=8.9 Hz, 2H), 7.15 (s, 2 H), 7.14 (d, J=8.7 Hz, 1H), 7.07 (d, J=2.0 Hz, 1H), 6.96 (d, J=8.9 Hz, 2H), 6.81 (dd, J=8.7, 2.0 Hz, 1H), 3.92 (s, 3H), 3.87 (s, 3H), 3.84 (s, 3H), 3.78 (s, 6H).

reactant | [6-methoxy-2-(1H-pyrazol-4-yl)-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone | 0.027 mmol, 11 mg | COC1=CC2=C(C(=C(O2)C=2C=NNC2)C(=O)C2=CC(=C(C(=C2)OC)OC)OC)C=C1 | C22H20N2O6
reactant | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
reactant | 4-methoxy-phenyl boronic acid | 0.059 mmol, 9 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | oxygen | O=O | O2
solvent | pyridine | 15 μl | N1=CC=CC=C1 | C5H5N
product | {6-Methoxy-2-[1-(4-methoxy-phenyl)-1H-pyrazol-4-yl]-benzofuran-3-yl}-(3,4,5-trimethoxyphenyl)-methanone | 2 mg, 15% yield | COC1=CC2=C(C(=C(O2)C=2C=NN(C2)C2=CC=C(C=C2)OC)C(=O)C2=CC(=C(C(=C2)OC)OC)OC)C=C1 | C29H26N2O7
